US06093732
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl phenylcarbamate
A mixture of 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)-2-propynyl phenylcarbamate from Example No. 150 (100 mg) and Pd/C (10%, 20 mg) is dissolved in 80 mL 3:1 CH2Cl2 :MeOH. The reaction mixture is placed under the Parr hydrogenator at 25 psi H2 and monitored by mass spectroscopy for complete reduction of the acetylene. The old palladium catalyst is replaced with fresh palladium catalyst each time the reaction is taken off the Parr. The reaction is complete in 40 min . The reaction mixutre is filtered over celite to remove the palladium. The filtrate is condensed. The mixture is adsorbed onto silica and chromatographed eluting with 2% MeOH in CH2Cl2. Fractions homogenous by TLC are combined and condensed to afford 11.3 mg (11%) of the title compound as a white solid.

reactant | 3-(3-{[(4-chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)-2-propynyl phenylcarbamate | C1(=CC=CC=C1)NC(OCC#CC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)=O | C27H19ClFN3O4
reactant | MeOH | CO | CH4O
reactant | acetylene | C#C | C2H2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium | [Pd] | Pd
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl phenylcarbamate | 11.3 mg, 11% | C1(=CC=CC=C1)NC(OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O)=O | C27H23ClFN3O4
